US08975203B2
For example, the methods for preparing bis(dodecylphenyl)iodonium salt disclosed in Patent documents 4 and 5 and Non-patent reference 1 deal with reacting potassium iodate (KIO3) and dodecylbenzene in the presence of acetic anhydride and concentrated sulfuric acid. However, this method has a low yield of 37-52%. This cannot be applied to the industrial mass production of diaryliodonium compounds. According to the findings of the present inventors, this method produces large amount of p-iodododecylbenzene as a byproduct. This p-iodododecylbenzene is difficult to separate from the target bis(dodecylphenyl)iodonium salt, and adversely affects the product quality.

reactant | bis(dodecylphenyl)iodonium | C(CCCCCCCCCCC)C1=C(C=CC=C1)[I+]C1=C(C=CC=C1)CCCCCCCCCCCC
reactant | potassium iodate | I(=O)(=O)[O-].[K+]
reactant | dodecylbenzene | C(CCCCCCCCCCC)C1=CC=CC=C1 | C18H30
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | p-iodododecylbenzene | yield of 37-52% | ICCCCCCCCCCCCC1=CC=CC=C1 | C18H29I
